US04577022
5,6,7,8-Tetrahydro-8-trimethylsilyl-4-methylquinoline
The title compound was prepared in a similar manner to that described in Example 1 using 5,6,7,8-tetrahydro-4-methylquinoline (0.1 M), butyl lithium (0.11 M) and trimethylsilyl chloride (0.2 M) in 95% yield b.p. 80°/0.1 mm (Found: C71.1; H,9.3; N,6.0 C13N21NSi requires: C71.2; H,9.6; N,6.4%).

reactant | 5,6,7,8-tetrahydro-4-methylquinoline | 0.1 M | CC1=CC=NC=2CCCCC12 | C10H13N
reactant | butyl lithium | 0.11 M | C(CCC)[Li]
reactant | trimethylsilyl chloride | 0.2 M | C[Si](C)(C)Cl | C3H9ClSi
product | 5,6,7,8-Tetrahydro-8-trimethylsilyl-4-methylquinoline | 95% yield | C[Si](C1CCCC=2C(=CC=NC12)C)(C)C | C13H21NSi
